US06340682B1
To a solution of 16 ml (72 mmol) of triethyl 4-phosphonocrotonate in anhydrous tetrahydrofuran (100 ml) was added 43 ml (69 mmol) of a 1.6 M n-butyllithium solution dropwise with stirring in an ice-salt bath under nitrogen, and the mixture was stirred for 30 minutes. Then, 5.0 ml (49 mmol) of benzaldehyde was added dropwise to this reaction mixture over about 5 minutes, and the resultant mixture was stirred for 10 minutes in the ice-salt bath and for an additional 3 hours at room temperature. A saturated aqueous solution of ammonium chloride was added to the reaction mixture to conduct extraction with ether. An organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure, and the resultant crude oil (15.9 g) was purified by chromatography on silica gel, thereby obtaining 8.14 g (yield: 82%) of ethyl 5-phenylpenta-(2E,4E)-dienoate.

reactant | triethyl 4-phosphonocrotonate | 72 mmol, 16 ml | CCOC(=O)/C=C/CP(=O)(OCC)OCC | C10H19O5P
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | benzaldehyde | 49 mmol, 5.0 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl 5-phenylpenta-(2E,4E)-dienoate | 8.14 g, yield: 82% | C1(=CC=CC=C1)/C=C/C=C/C(=O)OCC | C13H14O2
